US07897624B2
Step g: N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide
To the solution of 1-(2-fluoro-4-iodophenyl)-5,7-dimethyl-1H-imidazo[4,5-c]pyridine-2,6(3H,5H)-dione (23 mg, 0.0576) dissolved in dry DMF (2 mL) cooled to below 0° C. under an ice-bath, was added NaH (60% in mineral oil) (5.0 mg, 0.125 mmol). The cooling bath was removed after addition and the solution was allowed to stir at room temperature for 1 hour. The same solution was re-cooled to −5° C. in a dry-ice/acetone bath, and added cyclopropanesulfonyl chloride (28 mg, 0.20 mmol) dissolved in dry THF (0.5 mL) slowly. The mixture was allowed to warm to room temperature and stirred was and additional 16 hours. The reaction mixture was cooled to 0° C., additional NaH (60% in oil) (5.0 mg, 0.125 mmol), followed by cyclopropanesulfonyl chloride (15 mg, 0.11 mmol) were added. The solution was stirred at room temperature for additional 5 hours. To the same reaction mixture was added aqueous NaOH (1N) (5 mL). The mixture was heated to 65° C. for 40 minutes. After cooled to room temperature, aqueous HCl (1N) (25 mL) was added to acidify the solution, which was extracted with EtOAc (15 mL×3). The combined organic layers was washed with brine, dried (MgSO4), and concentrated under the reduced pressure to give a residue, which was HPLC purified. (9.6 mg, 35% yield).

reactant | 1-(2-fluoro-4-iodophenyl)-5,7-dimethyl-1H-imidazo[4,5-c]pyridine-2,6(3H,5H)-dione | 23 mg | FC1=C(C=CC(=C1)I)N1C(NC2=CN(C(C(=C21)C)=O)C)=O | C14H11FIN3O2
reactant | NaH | 0.125 mmol, 5.0 mg | [H-].[Na+]
reactant | cyclopropanesulfonyl chloride | 0.20 mmol, 28 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaH | 0.125 mmol, 5.0 mg | [H-].[Na+]
reactant | cyclopropanesulfonyl chloride | 0.11 mmol, 15 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide | 35% yield | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1C)=O)C)NS(=O)(=O)C1CC1 | C16H17FIN3O3S
